US07405300B2
1-Benzenesulfonyl-2-chloro-1H-indole-3-carboxaldehyde is reacted with piperazine as described in Step 2 of Example 29 to afford 1-benzenesulfonyl-2-(piperazin-1-yl)-1H-indole-3-carboxaldehyde (45% yield). ESI/MS 370 (M+H); RT 2.59 min.

reactant | 1-Benzenesulfonyl-2-chloro-1H-indole-3-carboxaldehyde | C1(=CC=CC=C1)S(=O)(=O)N1C(=C(C2=CC=CC=C12)C=O)Cl | C15H10ClNO3S
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 1-benzenesulfonyl-2-(piperazin-1-yl)-1H-indole-3-carboxaldehyde | 45% yield | C1(=CC=CC=C1)S(=O)(=O)N1C(=C(C2=CC=CC=C12)C=O)N1CCNCC1 | C19H19N3O3S
